US07425631B2
Step C. Preparation of (7-formyl-chroman-4-yl)-methyl-carbamic acid tert-butyl ester
To a solution of (7-cyano-chroman-4-yl)-methyl-carbamic acid tert-butyl ester (299 mg, 1.04 mmol, 1.0 eq) in anhydrous toluene (5 mL) under N2 at −20° C. was added diisobutylaluminum hydride (Aldrich, 1.50 M in toluene, 1.38 mL, 2.08 mmol, 2.0 eq) slowly. The reaction was stirred at −20° C. for 1 h. Glacial HOAc (1 mL) and H2O (5 mL) was added sequentially. The reaction was warmed to RT spontaneously and stirred at this temperature for an additional 1.5 h. A solution of saturated sodium potassium tartrate (50 mL) was added and the mixture was extracted with EtOAc (60 mL). The aqueous layer was adjusted to pH-10 with 2N NaOH, and extracted with EtOAc (60 mL×2). Combined organic phase was washed with saturated NaCl, dried over Na2SO4, filtered and concentrated. Flash column chromatography (silica gel, 0-8% EtOAc-Hexane) afforded the title compound as a colorless sticky solid.

reactant | (7-cyano-chroman-4-yl)-methyl-carbamic acid tert-butyl ester | 1.04 mmol, 299 mg, 1.0 eq | C(C)(C)(C)OC(N(C)C1CCOC2=CC(=CC=C12)C#N)=O | C16H20N2O3
reactant | diisobutylaluminum hydride | 2.08 mmol, 1.50 M, 1.38 mL, 2.0 eq | [H-].C(C(C)C)[Al+]CC(C)C
reactant | HOAc | 1 mL | CC(=O)O | C2H4O2
reactant | sodium potassium tartrate | 50 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 5 mL | O | H2O
product | (7-formyl-chroman-4-yl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1CCOC2=CC(=CC=C12)C=O)=O | C16H21NO4
